US07947835B2
4-(6-Bromo-imidazo[1,2-a]pyrazin-8-ylamino)-benzoic acid ethyl ester (10.0 g; 27.7 mmol) is dissolved in 200 mL ethanol (200 proof) and 100 mL 1 N NaOH is added. The reaction is refluxed for 2 hours and then cooled to rt. The resulting solid is filtered and collected, then slurried up in 0.1 N HCl (75 mL) and extracted with CH2Cl2 (2×75 mL). The pooled CH2Cl2 layers is washed with brine, then dried over anhydrous sodium sulfate and concentrated in vacuo to provide 4-(6-bromo-imidazo[1,2-a]pyrazin-8-ylamino)-benzoic acid as a white solid (8 g).

reactant | 4-(6-Bromo-imidazo[1,2-a]pyrazin-8-ylamino)-benzoic acid ethyl ester | 27.7 mmol, 10.0 g | C(C)OC(C1=CC=C(C=C1)NC=1C=2N(C=C(N1)Br)C=CN2)=O | C15H13BrN4O2
reactant | NaOH | 1 N, 100 mL | [OH-].[Na+]
solvent | ethanol | 200 mL | C(C)O | C2H6O
product | 4-(6-bromo-imidazo[1,2-a]pyrazin-8-ylamino)-benzoic acid | 8 g | BrC=1N=C(C=2N(C1)C=CN2)NC2=CC=C(C(=O)O)C=C2 | C13H9BrN4O2
